US06686381B2
{4-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-butyl}-carbamic Acid tert-Butyl Ester
The title compound was synthesised from [4-(3-Dimethylaminomethylene-thioureido)-butyl]-carbamic acid tert-butyl ester and 2-methyl phenacylbromide (Literature: WO9907666) according to the procedure described for Example 25 in 69% yield. MS (m/e): 390.2 (MH+, 100%).

reactant | [4-(3-Dimethylaminomethylene-thioureido)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(=S)N=CN(C)C)=O | C13H26N4O2S
reactant | 2-methyl phenacylbromide | CC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO
product | {4-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-butyl}-carbamic Acid tert-Butyl Ester | 69% yield | C(C)(C)(C)OC(NCCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O)=O | C20H27N3O3S
